*
V1 N008 0 5
L1 N005 N006 2.2m Ipk=0.21 Rser=9.13 Rpar=225450 Cpar=5.88p mfg="Würth Elektronik" pn="744741222 WE-TI 8055"
R1 N004 N005 17 tol=17
D1 N001 N002 1N4148
D2 N002 N003 1N4148
D3 N006 N004 1N4148
R2 N009 N007 1k
V2 N010 0 PULSE(0 3.3 1m 50n 50n 111u 222u)
L2 N008 N001 50nH Rser=20m Cpar=100pF
L3 N010 N009 20nH Rser=10m Cpar=50pF
R3 N003 N004 100 tol=1 pwr=0.1
M1 N006 N007 0 0 AO6408
C1 N001 0 10µ V=6.3 Irms=150m Rser=3.4 Lser=0 mfg="Vishay" pn="293D106M6R3A" type="Tantalum"
.model D D
.lib C:\Users\Microslop\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Microslop\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0.009
.backanno
.end
